US07396844B1
Synthesis of [N-methyl-N-(pyridine-4-yl)amino]acetic acid hydrochloride
1.28 g (6.60 mmol) of ethyl [N-methyl-N-(pyridine-4-yl)amino]acetate was stirred in 30 ml of dioxane. 26 ml of 1 N hydrochloric acid was added to the resultant mixture, and they were stirred at 95° C. for 20 hours. The solvent was evaporated under reduced pressure to obtain the title compound.

reactant | ethyl [N-methyl-N-(pyridine-4-yl)amino]acetate | 6.60 mmol, 1.28 g | CN(C1=CC=NC=C1)CC(=O)OCC | C10H14N2O2
reactant | hydrochloric acid | 1 N, 26 ml | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | [N-methyl-N-(pyridine-4-yl)amino]acetic acid hydrochloride | Cl.CN(C1=CC=NC=C1)CC(=O)O | InChI=1S/C8H10N2O2.ClH/c1-10(6-8(11)12)7-2-4-9-5-3-7;/h2-5H,6H2,1H3,(H,11,12);1H
